US04536209
Production of N-[4-bromo-3-(1-ethoxycarbonylbutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 15.0 g. of N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide, 12.0 g. of ethyl α-bromovalerate, 7.7 g. of potassium carbonate, 2.5 g. of potassium iodide and 50 ml. of acetone was refluxed with stirring for 3 hours and then, the reaction mixture was cooled to room temperature and the salt was separated by a filtration. The filtrate was concentrated under a reduced pressure and 2N-HCl was added to the residue to crystallize the product. The crystal was separated by a filtration and washed with water and dried. The residue was purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate: n-hexane of 1:3) to obtain 17.6 g. of Compound No. 90 shown in table 1.

reactant | N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)O | C14H12BrNO3
reactant | ethyl α-bromovalerate | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-bromo-3-(1-ethoxycarbonylbutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CCC)C(=O)OCC | C21H24BrNO5
